US07259165B2
Preparation of 6-(4-Methylpiperazin-1-yl)-2-[(phenylsulfonyl)methyl]pyridin-3-yl-amine
A mixture of 1-methyl-4-{5-nitro-6-[(phenylsulfonyl)methyl]pyridin-2-yl}-piperazine (1.60 g, 4.35 mmol) and 10% Pd/C (200 mg) in a 1:1 mixture of ethanol:THF is hydrogenated at 45 psi for 4 h at ambient temperatures. The catalyst is filtered off and the filtrate is concentrated in vacuo to afford the title compound as a yellow solid, 1.45 g (99% yield), identified by NMR analysis.

reactant | 1-methyl-4-{5-nitro-6-[(phenylsulfonyl)methyl]pyridin-2-yl}-piperazine | 4.35 mmol, 1.60 g | CN1CCN(CC1)C1=NC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC=C1 | C17H20N4O4S
reactant | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
product | 6-(4-Methylpiperazin-1-yl)-2-[(phenylsulfonyl)methyl]pyridin-3-yl-amine | 99% yield | CN1CCN(CC1)C1=CC=C(C(=N1)CS(=O)(=O)C1=CC=CC=C1)N | C17H22N4O2S
